US03931201
Dry powdered sodium hydroxide (2.44 grams; 0.061 mole) was dissolved in 110 ml. of warm dimethylsulfoxide and N'-(4-hydroxyphenyl)-N,N-dimethyl urea (11.0 grams; 0.061 mole) and 2,6-dichloropyridine-N-oxide added thereto. The reaction mixture was stirred at a temperature of about 60°C. for a period of five and one-half hours. After this period, about three-fourths of the solvent carrier was removed by vacuum distillation and the residual oil thus obtained poured into ice water. The aqueous mixture was extracted with three 250 ml. portions of warm methylene chloride and the extracts combined. Evaporation of the solvent from the extract left a brown, syrupy residue which was washed with cold water and then with dry benzene to give the desired N'-(4-((6-chloro-2-pyridinyl)oxy)phenyl)-N,N-dimethyl urea-1-oxide compound as a crystalline solid melting at 190°-191°C. and having carbon, hydrogen, nitrogen and chlorine contents of 53.83, 4.63, 13.25 and 12.78 percent, respectively, as compared with contents of 54.64, 4.58, 13.65 and 11.52 percent, respectively, calculated for the named structure.

reactant | sodium hydroxide | 0.061 mole, 2.44 grams | [OH-].[Na+]
reactant | N'-(4-hydroxyphenyl)-N,N-dimethyl urea | 0.061 mole, 11.0 grams | OC1=CC=C(C=C1)NC(N(C)C)=O | C9H12N2O2
reactant | 2,6-dichloropyridine-N-oxide | ClC1=[N+](C(=CC=C1)Cl)[O-] | C5H3Cl2NO
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | N'-(4-((6-chloro-2-pyridinyl)oxy)phenyl)-N,N-dimethyl urea-1-oxide | ClC1=CC=CC(=N1)OC1=CC=C(C=C1)NC([N+](C)(C)[O-])=O | C14H14ClN3O3
